US05859024
N,N-Diisopropylethylamine (14.5 ml) was added dropwise to a stirred suspension of O-methylhydroxylamine hydrochloride (2.32 g) in isopropyl alcohol (25 ml). After 30 minutes cyclohepta-2,6-dienone (3.0 g) in isopropyl alcohol (5 ml) was added dropwise. After 24 hours N,N-diisopropylethylamine (4.9 ml) was added. After 6 hours the mixture was allowed to stand at room temperature overnight. The mixture was evaporated under reduced pressure, diethyl ether added and the resulting mixture extracted with 2M hydrochloric acid (x3). The combined aqueous fractions were washed with diethyl ether (x3), neutralised with sodium hydroxide and extracted with diethyl ether (x3). The combined extracts were washed with brine, dried (MgSO4) and evaporated under reduced pressure. Kugelrohr distillation gave 8-methoxy-8-azabicyclo[3.2.1]octan-3-one (0.86 g). Tosylmethyl isocyanide (2.52 g) was added to a stirred suspension of potassium t-butoxide (2.17 g) in 1,2-dimethoxyethane (10 ml) at such a rate to keep the temperature below 10° C. After 45 minutes 8-methoxy-8-azabicyclo[3.2.1]octan-3-one (1.0 g) in 1,2-dimethoxyethane (10 ml) was added dropwise. After 30 minutes the mixture was allowed to warm to room temperature. After 4 hours the mixture was allowed to stand at room temperature overnight and water was then added. The resulting mixture was extracted with ethyl acetate (x3) and the combined extracts washed with brine, dried (MgSO4) and evaporated under reduced pressure. Chromatography [SiO2 ; hexane:ethyl acetate (90:10)] gave exo-3-cyano-8-methoxy-8-azabicyclo[3.2.1]octane (0.40 g). Lithium bis(trimethylsilyl)amide (2.42 ml of a 1M solution in tetrahydrofuran) was added dropwise to a stirred solution of exo-3-cyano-8-methoxy-8-azabicyclo[3.2.1]octane (0.40 g) and 3,5-dichloropyridine (0.358 g) in tetrahydrofuran (5 ml) at 0° C. After 1 hour the mixture was allowed to warm to room temperature. After 5 hours water was added and the mixture extracted with ethyl acetate (x3). The combined extracts were washed with brine, dried (MgSO4) and evaporated under reduced pressure. Preparative thin layer chromatography [SiO2 ; ethyl acetate] gave exo-3-(5-chloropyrid-3-yl)-endo-3-cyano-8-methoxy-8-azabicyclo[3.2.1]octane (0.192 g) m.p. 107.5°-108.5° C.

reactant | N,N-Diisopropylethylamine | 14.5 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | O-methylhydroxylamine hydrochloride | 2.32 g | Cl.CON
reactant | cyclohepta-2,6-dienone | 3.0 g | C1(C=CCCC=C1)=O | C7H8O
reactant | N,N-diisopropylethylamine | 4.9 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | isopropyl alcohol | 25 ml | C(C)(C)O | C3H8O
solvent | isopropyl alcohol | 5 ml | C(C)(C)O | C3H8O
product | 8-methoxy-8-azabicyclo[3.2.1]octan-3-one | 0.86 g | CON1C2CC(CC1CC2)=O | C8H13NO2
